US07635701B2
To a solution of methyl 2-chloro-4-trifluoromethyl-pyrimidine-5-carboxylate (0.50 g, ex Maybridge) in 1,4-dioxan (5 ml) was added 2,4-dichloroaniline (1.7 g) and the solution stirred under reflux for 7 h. 1,4-Dioxan was removed under reduced pressure and ethyl acetate (15 ml) added. The solution was washed sequentially with 2N hydrochloric acid (10 ml) and water (3×10 ml), dried (MgSO4), evaporated and triturated with hexane to afford methyl 2-(2,4-dichlorophenylamino)-4-trifluoromethylpyrimidine-5-carboxylate (358 mg).

reactant | methyl 2-chloro-4-trifluoromethyl-pyrimidine-5-carboxylate | 0.50 g | ClC1=NC=C(C(=N1)C(F)(F)F)C(=O)OC | C7H4ClF3N2O2
reactant | 2,4-dichloroaniline | 1.7 g | ClC1=C(N)C=CC(=C1)Cl | C6H5Cl2N
solvent | 1,4-dioxan | 5 ml | O1CCOCC1 | C4H8O2
product | methyl 2-(2,4-dichlorophenylamino)-4-trifluoromethylpyrimidine-5-carboxylate | 358 mg | ClC1=C(C=CC(=C1)Cl)NC1=NC=C(C(=N1)C(F)(F)F)C(=O)OC | C13H8Cl2F3N3O2
